US07750145B2
1-[4-(2-Aminoethoxy)benzyl]-7-chloro-3-(β-D-glucopyranosyl)-1H-indole
To a solution of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-7-chloro-1-{4-[2-(methanesulfonyloxy)ethoxy]-benzyl}-1H-indole (85 mg) in N,N-dimethylformamide (2 mL) was added sodium azide (12 mg), and the mixture was stirred at 100° C. for 2 hours. The reaction mixture was poured into water, and the resulting mixture was extracted with diethyl ether. The extract was washed with water and brine successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. The residue was dissolved in a mixed solvent of methanol (2 mL) and tetra hydrofuran (3 mL). To the solution was added sodium methoxide (28% methanol solution, 0.30 mL), and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into a saturated aqueous sodium hydrogen carbonate solution, and the resulting mixture was extracted with ethylacetate. The extract was washed with brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. The residue was dissolved in tetra hydrofuran (3 mL). To the solution were added water (0.3 mL) and triphenylphosphine (36 mg), and the mixture was stirred at room temperature for 3 days. The solvent was removed under reduced pressure, and the residue was purified by preparative reverse phase column chromatography (Shiseido CAPCELL PAK C18 ODS, UG80, 5 μm, 20×50 mm, linear gradient water/methanol=90/10-10/90, flow rate 30 mL/min) to give the title compound (12 mg).

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-7-chloro-1-{4-[2-(methanesulfonyloxy)ethoxy]-benzyl}-1H-indole | 85 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)C1=CN(C2=C(C=CC=C12)Cl)CC1=CC=C(C=C1)OCCOS(=O)(=O)C | C32H36ClNO13S
reactant | sodium azide | 12 mg | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 1-[4-(2-Aminoethoxy)benzyl]-7-chloro-3-(β-D-glucopyranosyl)-1H-indole | 12 mg | NCCOC1=CC=C(CN2C=C(C3=CC=CC(=C23)Cl)[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)C=C1 | C23H27ClN2O6
